US06242600B1
(R,S)-[4-[2-Methoxycarbonylamino-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid Hydrochloride
To a mixture of (R,S)-[4-[2-amino-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxy-carbonylmethyl-2-oxopiperazin-1-yl]acetic acid trifluoroacetic acid salt (0.30 g) produced in Working Example 21, an aqueous solution of sodium hydrogen carbonate (0.18 g), water (3 ml) and 1,4-dioxane (3 ml) was added methyl chloroformate (0.051 ml) and the solution was stirred for 1 hour at room temperature. To the reaction solution was added 1N hydrochloric acid and the solution was adjusted to pH 3, which was then concentrated. The concentrate was purified by means of CHP-20 column chromatography (eluent:H2O→10% acetonitrile aqueous solution). The objected fraction was concentrated and subjected to lyophilization to give the titled compound (0.25 g) as a white amorphous powdery product.

reactant | (R,S)-[4-[2-amino-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxy-carbonylmethyl-2-oxopiperazin-1-yl]acetic acid trifluoroacetic acid salt | 0.30 g | FC(C(=O)O)(F)F.N[C@H](C(=O)N1[C@@](C(N(CC1)CC(=O)O)=O)(OC)C=C=O)CC(N1CCN(CC1)C1=CC=NC=C1)=O
reactant | sodium hydrogen carbonate | 0.18 g | C(O)([O-])=O.[Na+]
reactant | methyl chloroformate | 0.051 ml | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | (R,S)-[4-[2-Methoxycarbonylamino-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid Hydrochloride | 0.25 g | Cl.COC(=O)N[C@H](C(=O)N1[C@@H](C(N(CC1)CC(=O)O)=O)CC(=O)OC)CC(N1CCN(CC1)C1=CC=NC=C1)=O | InChI=1S/C24H32N6O9.ClH/c1-38-21(34)14-18-23(36)29(15-20(32)33)11-12-30(18)22(35)17(26-24(37)39-2)13-19(31)28-9-7-27(8-10-28)16-3-5-25-6-4-16;/h3-6,17-18H,7-15H2,1-2H3,(H,26,37)(H,32,33);1H/t17-,18+;/m0./s1
